US07314888B1
In 15 ml of ethanol is dissolved 1.50 g of ethyl 3-(2-isobutoxyphenyl)-2-propenoate, to which is added 0.30 g of 5% palladium-carbon. The mixture is stirred at ambient temperature for one hour in a stream of hydrogen. The reaction mixture is filtered with Celite, and the solvent is distilled off from the filtrate under reduced pressure. The residue thus obtained is purified by silica gel column chromatography to obtain 0.76 g of ethyl 3-(2-isobutoxyphenyl)propionate as a colorless oily product.

reactant | ethyl 3-(2-isobutoxyphenyl)-2-propenoate | 1.50 g | C(C(C)C)OC1=C(C=CC=C1)C=CC(=O)OCC | C15H20O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | ethyl 3-(2-isobutoxyphenyl)propionate | 0.76 g | C(C(C)C)OC1=C(C=CC=C1)CCC(=O)OCC | C15H22O3
